### ISSUE TITLE
library_search issues

### ISSUE THREAD

**Issue by semorrison** [leanprover-community/mathlib4#3426]
Please use this PR to note places where `library_search` fails, but you think it should!

**Comment by semorrison** [comment]
Should
```
example (p q : Prop) : (p ↔ q) ↔ (¬p ↔ ¬q) := by library_search
```
work? The flipped version successfully finds [`not_iff_not`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=not_iff_not#doc), and I thought `library_search` was meant to handle the symmetric versions of lemmas.

**Comment by semorrison** [comment]
From https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Showing.20that.20a.20structure.20is.20.60Fintype.60

```
import Mathlib.Data.Fintype.Sigma
import Mathlib.Tactic.LibrarySearch

instance [Fintype α] (f : α ≃ β) : Fintype β := by library_search
-- suggestion: refine { elems := ?_ (id (Equiv.symm f)), complete := (_ : ∀ (x : β), x ∈ ?_) }
```

**Comment by fpvandoorn** [comment]
@semorrison I hope you don't mind that I hijacked your first comment here to keep track of some Zulip threads where I reported issues.

**Comment by ocfnash** [comment]
From https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/library_search.20fails.20to.20find.20theorem/near/377013391

```lean
import Mathlib

example {n : ℕ} : n = 0 ∨ 0 < n := by exact? -- Fails to find `eq_zero_or_pos`
```
including reply from @dwrensha pointing out that this is a consequence of the `isInternal'` heuristic here: https://github.com/leanprover-community/mathlib4/blob/a1451be4b1cafd4d5e780a690b9e26c8891d3220/Mathlib/Lean/Expr/Basic.lean#L97

**Comment by grhkm21** [comment]
```lean
import Mathlib.Tactic

example (h : ¬P ∨ Q) (h' : P) : Q := by exact? -- fails
example (h : ¬P ∨ Q) (h' : P) : Q := imp_iff_not_or.mpr h h'
```

**Comment by fpvandoorn** [comment]
@grhkm21 I believe this is an intentional limitation: some lemmas apply to *every* goal, and for performance reasons they are not tried by `exact?`. Your example is one such lemma.

**Comment by semorrison** [comment]
But it might well be possible to re-enable trying these universal lemmas, as in the current model they would be tried last, and we have an automatic mechanism to stop before reaching a timeout. Someone should try!

**Comment by adomasbaliuka** [comment]
```lean
import Mathlib

example (x y c : ℝ) (h: 0 < c) : x < y → c * x < c * y := by
  exact?
```
suggests the malformed term
```
  exact fun a =>
    (fun {α} {a b c} [Mul α] [Zero α] [Preorder α] [PosMulStrictMono α] [PosMulReflectLT α] a0 =>
        (mul_lt_mul_left a0).mpr)
      h a
```

**Comment by vasnesterov** [comment]
In this example `apply?` fails to find any relevant lemmas:
```lean
import Mathlib

example {X : Type} [MetricSpace X] (x y : X) (h : dist x y = 0) : x = y := by
  apply? -- apply? didn't find any relevant lemmas
  -- exact eq_of_dist_eq_zero h -- success
```
